US07423185B2
Ethyl [4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate
Ethyl bromoacetate (0.60 mL) was added to a mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (1.0 g) and potassium carbonate (0.94 g) in N,N-dimethylformamide (5 mL), and the mixture was stirred overnight at 80° C. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1) to afford the title compound (1.33 g).

reactant | Ethyl bromoacetate | 0.60 mL | BrCC(=O)OCC | C4H7BrO2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 1.0 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | potassium carbonate | 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl [4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate | 1.33 g | CC1(OB(OC1(C)C)C1=CC=C(OCC(=O)OCC)C=C1)C | C16H23BO5
